US09290454B2
Benzyl bromide (152 mg, 0.887 mmol, 1.50 equiv.) was added to a stirred mixture of methyl 5-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (200 mg, 0.591 mmol) and Cs2CO3 (289 mg, 0.887 mmol, 1.50 equiv.) in DMF (1 mL) and the mixture was stirred at room temperature overnight. Upon completion, the reaction mixture was diluted with water, extracted with EtOAc (2×5 mL), washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel, eluting with 0-20% EtOAc/hexanes to give 147 mg of methyl 5-(2-benzyl-6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate as a pink solid.

reactant | Benzyl bromide | 0.887 mmol, 152 mg, 1.50 equiv. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 5-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.591 mmol, 200 mg | BrC=1C=C2C=C(NC(C2=CC1)=O)CCCCC(=O)OC | C15H16BrNO3
reactant | Cs2CO3 | 0.887 mmol, 289 mg, 1.50 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 5-(2-benzyl-6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 147 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC)Br)=O | C22H22BrNO3
